US05284971
3,5-Dibromo-4-hydroxyphenylacetic acid (60 g, 0.19 mol), from Preparation A, was suspended in 1 L of ethanol and 10 mL of concentrated sulfuric acid and heated at reflux overnight. The reaction mixture was cooled, concentrated and the product collected by filtration, washed with water, and dried in a vacuum oven to obtain ethyl 3,5-dibromo-4-hydroxyphenylacetate.

reactant | 3,5-Dibromo-4-hydroxyphenylacetic acid | 0.19 mol, 60 g | BrC=1C=C(C=C(C1O)Br)CC(=O)O | C8H6Br2O3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1 L | C(C)O | C2H6O
product | ethyl 3,5-dibromo-4-hydroxyphenylacetate | BrC=1C=C(C=C(C1O)Br)CC(=O)OCC | C10H10Br2O3
